US07196090B2
1-Cyclopentyl-7-(4-diethylamino-butylamino)-3-(2,6-difluoro-3,5-dimethoxy-phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one
In a 1-L round bottom flask, 8.00 g (17.78 mmol) of 1-cyclopentyl-3-(2,6-difluoro-3,5-dimethoxy-phenyl)-7-methylsulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one in 260 mL of dioxane was treated with 5.10 g (35.36 mmol) of 4-diethylamino-butylamine and heated at reflux for 10 hours under nitrogen atmosphere. The dioxane was evaporated in vacuo. The crude product was purified using medium-pressure chromatography eluting with a gradient of 9:0.5:0.25 to 9:1:0.5 ethyl acetate/methanol/triethylamine to give 8.14 g (86%) of the title compound as a pure partially crystalline solid. A 50 mg portion of the solid was recrystallized with 25% ethanol in hexanes to give 35 mg of title compound as pure crystalline solid: mp 132° C.–133° C. MS (APCI) (m+1)/z 533.3.

reactant | 1-cyclopentyl-3-(2,6-difluoro-3,5-dimethoxy-phenyl)-7-methylsulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 17.78 mmol, 8.00 g | C1(CCCC1)N1C(N(CC=2C1=NC(=NC2)S(=O)C)C2=C(C(=CC(=C2F)OC)OC)F)=O | C20H22F2N4O4S
reactant | 4-diethylamino-butylamine | 35.36 mmol, 5.10 g | C(C)N(CCCCN)CC | C8H20N2
solvent | dioxane | 260 mL | O1CCOCC1 | C4H8O2
product | 1-Cyclopentyl-7-(4-diethylamino-butylamino)-3-(2,6-difluoro-3,5-dimethoxy-phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 8.14 g, 86% | C1(CCCC1)N1C(N(CC=2C1=NC(=NC2)NCCCCN(CC)CC)C2=C(C(=CC(=C2F)OC)OC)F)=O | C27H38F2N6O3
